*$
* TPS22917

*****************************************************************************
* (C) Copyright 2017 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************

** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.

*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS22917
* Date: 14DEC2017
* Model Type: Transient
* Simulator: PSpice
* Simulator Version: 16.2.0.s003
* EVM Order Number:
* EVM User's Guide: SLVSDW8
* Data sheet: SLVSDW8 - SEPTEMBER 2017
*
* Model Version: Final 1.00
*
*****************************************************************************

.SUBCKT TPS22917_TRANS CT GND ON QOD VIN VOUT

G_U2_G1 VIN GND TABLE { V(U2_N14553232, 0) }
+ ( (0,0)(1,408n)(1.8,550n)(3.6,479n)(5.5,633n) )

R_U2_R3 U2_N14553152 U2_N14553136 10 TC=0,0
C_U2_C3 0 U2_N14553232 1n
R_U2_R4 U2_N14553248 U2_N14553232 10 TC=0,0

E_U2_ABM3 U2_N14553248 0 VALUE { IF (V(ON_INT_PRE) > 0.5 , V(VIN) , 0) }

E_U2_ABM2 U2_N14553152 0 VALUE { IF (V(ON_INT_PRE) < 0.5 , V(VIN) , 0) }

G_U2_G2 VIN GND TABLE { V(U2_N14553136, 0) }
+ ( (0,0)(1,2n)(1.8,2.62n)(3.6,3.53n)(5.5,9.55n) )

C_U2_C2 0 U2_N14553136 1n
I_U1_I1 U1_N15515882 GND DC 10n

X_U1_U2_H1 U1_U2_N16803039 U1_U2_N145001 U1_U2_I_REVERSE 0 DRIVER_U1_U2_H1

M_U1_U2_M2 VOUT CT U1_U2_N71809 U1_U2_N71809 PMOS01

D_U1_U2_D7 U1_U2_N42116 CT DD

X_U1_U2_U15 U1_U2_N16806836 VOUT U1_U2_N1275293 U1_U2_VRCB
+ COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5

R_U1_U2_R1 U1_U2_N16849773 0 1G TC=0,0
V_U1_U2_V5 U1_U2_N16806836 0 22m

E_U1_U2_E2 U1_U2_N16813178 0 TABLE { V(VIN, 0) }
+ ( (0,0)(1,195)(1.25,160)(1.5,155)(2,150)(3.5,145)(5,145)(5.5,144) )

V_U1_U2_V1 U1_U2_N42116 0 0.001

X_U1_U2_S3 U1_N03821 0 VIN CT DRIVER_U1_U2_S3

E_U1_U2_E6 U1_U2_ITD 0 TABLE { V(VIN, 0) }
+ ( (0,0)(1,3u)(1.2,3.8u)(1.8,4u)(3,3.3u)(3.6,4u)(5,4.5u)(5.5,4.5u) )

E_U1_U2_E8 U1_U2_N16851045 0 TABLE { V(VIN, 0) }
+ ( (1,254)(1.8,281)(3.6,333)(5.5,373) )

X_U1_U2_U14 U1_U2_CTRL U1_U2_VRCB U1_U2_REVERSE_CTRL N129530
+ srlatchrhp_basic_gen PARAMS: VDD=1 VSS=0 VTHRESH=0.5

D_U1_U2_D6 VOUT U1_U2_N71809 DD
G_U1_U2_G1 CT 0 U1_U2_N16813340 0 1
V_U1_U2_V4 U1_U2_N1275293 0 1n

X_U1_U2_F1 U1_U2_N16851045 U1_U2_N16849773 VOUT U1_U2_N16802853
+ DRIVER_U1_U2_F1

X_U1_U2_U20 U1_U2_PRECTRL U1_U2_CTRL BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+ VSS=0 VTHRESH=0.5 DELAY=10u

X_U1_U2_S11 U1_U2_REVERSE_CTRL 0 U1_U2_N16803039 U1_U2_N16802853
+ DRIVER_U1_U2_S11

E_U1_U2_E7 U1_U2_N15979 0 TABLE { V(VIN, 0) }
+ ( (1,197m)(1.8,381m)(3.6,534m)(5.5,641m)) )

X_U1_U2_U13 U1_U2_I_REVERSE U1_U2_N15979 U1_U2_N75775 U1_U2_PRECTRL
+ COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_U1_U2_E4 U1_U2_N16813658 0 TABLE { V(VIN, 0) }
+ ( (0,0)(1,0.22m)(1.8,30.35m)(5,51.94m) )

V_U1_U2_V2 U1_U2_N75775 0 1n

E_U1_U2_E5 U1_U2_IGATE 0 TABLE { V(VIN, 0) }
+ ( (0,0)(1,1.1u)(1.2,1.05u)(1.8,1u)(3,0.9u)(3.6,0.85u)(5,0.8u)(5.5,0.85u) )

E_U1_U2_ABM8 U1_U2_N16813340 0 VALUE { IF ( V(U1_N03821) > 0.5 &(
+ V(VIN)-V(CT) < 0.5), V(U1_U2_ITD),
+ IF ( V(U1_N03821) > 0.5 &(V(VIN)- V(CT) >= 0.5), V(U1_U2_IGATE) , 0 ) )
+ }

C_U1_U2_Cgd CT VOUT 0.1n

X_U1_U2_U1 QOD U1_U2_N16813094 U1_U2_N16813178 0 RVAR PARAMS: RREF=1

X_U1_U2_S4 U1_N03821 0 U1_U2_N16813094 GND DRIVER_U1_U2_S4

C_U1_U2_Cgs CT U1_U2_N71809 0.043n

X_U1_U2_S10 U1_U2_REVERSE_CTRL 0 U1_U2_N16803039 U1_U2_N71809
+ DRIVER_U1_U2_S10

X_U1_U2_U4 VIN U1_U2_N145001 U1_U2_N16813658 0 RVAR PARAMS: RREF=1

X_U1_S5 ON_INT_PRE GND ON U1_N15515882 CHANNEL_X_U1_S5

E_U1_U1_E2 U1_U1_HYS 0 TABLE { V(VIN, 0) }
+ ( (0,0)(1,0.07)(1.8,0.07)(3.5,0.05)(5.5,0.03) )

G_U1_U1_ABM2I4 U1_U1_N14507001 U1_U1_ON_A VALUE { IF (V(ON_INT_PRE) >
+ 0.5, 1m, 0) }

C_U1_U1_C1 0 U1_U1_ON_A 1n IC=0
V_U1_U1_V5 U1_U1_N14507001 0 2
C_U1_U1_C4 U1_U1_N15516099 0 1n
R_U1_U1_R3 U1_U1_N15516119 U1_U1_N15516099 10 TC=0,0
V_U1_U1_V4 U1_U1_N427908 0 1

X_U1_U1_S2 U1_U1_N427944 0 U1_U1_N427908 U1_U1_ON_A CONTROL_U1_U1_S2

D_U1_U1_D3 U1_U1_ON_A U1_U1_N14507001 DD

E_U1_U1_ABM5 U1_U1_N15516119 0 VALUE { IF(V(ON_INT_PRE) <0.5, V(VIN),0) }

E_U1_U1_E1 U1_U1_THRISE 0 TABLE { V(VIN, 0) }
+ ( (0,0)(1,0.62)(1.8,0.62)(3.5,0.66)(5.5,0.71) )

X_U1_U1_U5 ON U1_U1_THRISE U1_U1_HYS ON_INT_PRE COMPHYS_BASIC_GEN
+ PARAMS: VDD=1 VSS=0 VTHRESH=0.5

X_U1_U1_U46 U1_N03821 ON_INT_PRE U1_U1_N427964 NOR2_BASIC_GEN PARAMS:
+ VDD=1 VSS=0 VTHRESH=500E-3

X_U1_U1_U43 U1_U1_ON_A U1_N03821 BUF_BASIC_GEN PARAMS: VDD=1 VSS=0
+ VTHRESH=0.5

G_U1_U1_G1 U1_U1_ON_A 0 TABLE { V(U1_U1_N15516099, 0) }
+ ( (0,0)(1,20u)(1.2,25u)(1.8,48u)(3,70u)(3.6,90u)(5,120u) )

X_U1_U1_U44 ON_INT_PRE U1_N03821 U1_U1_N427944 AND2_BASIC_GEN PARAMS:
+ VDD=1 VSS=0 VTHRESH=500E-3

X_U1_U1_S1 U1_U1_N427964 0 U1_U1_ON_A 0 CONTROL_U1_U1_S1

X_U1_S4 ON_INT_PRE GND ON GND CHANNEL_X_U1_S4

.ENDS TPS22917_TRANS


.subckt DRIVER_U1_U2_H1 1 2 3 4
H_U1_U2_H1 3 4 VH_U1_U2_H1 1
VH_U1_U2_H1 1 2 0V
.ends DRIVER_U1_U2_H1


.subckt DRIVER_U1_U2_S3 1 2 3 4
S_U1_U2_S3 3 4 1 2 _U1_U2_S3
RS_U1_U2_S3 1 2 1G
.MODEL _U1_U2_S3 VSWITCH Roff=1e9 Ron=1 Voff=0.8 Von=0.2
.ends DRIVER_U1_U2_S3


.subckt DRIVER_U1_U2_F1 1 2 3 4
F_U1_U2_F1 3 4 VF_U1_U2_F1 1
VF_U1_U2_F1 1 2 0V
.ends DRIVER_U1_U2_F1


.subckt DRIVER_U1_U2_S11 1 2 3 4
S_U1_U2_S11 3 4 1 2 _U1_U2_S11
RS_U1_U2_S11 1 2 1G
.MODEL _U1_U2_S11 VSWITCH Roff=1e9 Ron=0.1 Voff=0 Von=1
.ends DRIVER_U1_U2_S11


.subckt DRIVER_U1_U2_S4 1 2 3 4
S_U1_U2_S4 3 4 1 2 _U1_U2_S4
RS_U1_U2_S4 1 2 1G
.MODEL _U1_U2_S4 VSWITCH Roff=1E9 Ron=1m Voff=0.9 Von=0.1
.ends DRIVER_U1_U2_S4


.subckt DRIVER_U1_U2_S10 1 2 3 4
S_U1_U2_S10 3 4 1 2 _U1_U2_S10
RS_U1_U2_S10 1 2 1G
.MODEL _U1_U2_S10 VSWITCH Roff=1e9 Ron=0.1m Voff=1 Von=0
.ends DRIVER_U1_U2_S10


.subckt CHANNEL_X_U1_S5 1 2 3 4
S_U1_S5 3 4 1 2 _U1_S5
RS_U1_S5 1 2 1G
.MODEL _U1_S5 VSWITCH Roff=1E9 Ron=1 Voff=0.1 Von=0.8
.ends CHANNEL_X_U1_S5


.subckt CONTROL_U1_U1_S2 1 2 3 4
S_U1_U1_S2 3 4 1 2 _U1_U1_S2
RS_U1_U1_S2 1 2 1G
.MODEL _U1_U1_S2 VSWITCH Roff=100e6 Ron=1m Voff=0.2 Von=0.8
.ends CONTROL_U1_U1_S2


.subckt CONTROL_U1_U1_S1 1 2 3 4
S_U1_U1_S1 3 4 1 2 _U1_U1_S1
RS_U1_U1_S1 1 2 1G
.MODEL _U1_U1_S1 VSWITCH Roff=100e6 Ron=1m Voff=0.2 Von=0.8
.ends CONTROL_U1_U1_S1


.subckt CHANNEL_X_U1_S4 1 2 3 4
S_U1_S4 3 4 1 2 _U1_S4
RS_U1_S4 1 2 1G
.MODEL _U1_S4 VSWITCH Roff=1E9 Ron=750k Voff=0.8 Von=0.1
.ends CHANNEL_X_U1_S4


.model PMOS01 pmos
+ vto=-0.5
+ kp=9.75
+ lambda=0.001


.model DD d
+ is=1e-015
+ n=0.01
+ tt=1e-011


.subckt srlatchrhp_basic_gen s r q qb params: vdd=1 vss=0 vthresh=0.5

gq 0 qint value = {if(v(r) > {vthresh},-5,if(v(s)>{vthresh},5, 0))}

cqint qint 0 1n
rqint qint 0 1000meg

d_d10 qint my5 d_d1
v1 my5 0 {vdd}

d_d11 myvss qint d_d1
v2 myvss 0 {vss}

eq qqq 0 qint 0 1

x3 qqq qqqd1 buf_basic_gen params: vdd={vdd} vss={vss} vthresh={vthresh}

rqq qqqd1 q 1

eqb qbr 0 value = {if( v(q) > {vthresh}, {vss},{vdd})}

rqb qbr qb 1

cdummy1 q 0 1n
cdummy2 qb 0 1n

.ic v(qint) {vss}

.model d_d1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.1

.ends srlatchrhp_basic_gen


.SUBCKT NAND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE YINT 0 VALUE {{IF(V(A) > {VTHRESH} &
+ V(B) > {VTHRESH},{VSS},{VDD})}}

RINT YINT Y 1
CINT Y 0 1n

.ENDS NAND2_BASIC_GEN


.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5

EIN INP1 INM1 INP INM 1

EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }

EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }

R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K

.ENDS COMPHYS_BASIC_GEN


.MODEL NMOS01 NMOS (VTO = 0.65 KP = 2 LAMBDA = 0.001)


.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE YINT 0 VALUE {{IF(V(A) > {VTHRESH} &
+ V(B) > {VTHRESH},{VDD},{VSS})}}

RINT YINT Y 1
CINT Y 0 1n

.ENDS AND2_BASIC_GEN


.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE YINT 0 VALUE {{IF(V(A) > {VTHRESH} |
+ V(B) > {VTHRESH},{VDD},{VSS})}}

RINT YINT Y 1
CINT Y 0 1n

.ENDS OR2_BASIC_GEN


.SUBCKT BUF_BASIC_GEN A Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE YINT 0 VALUE {{IF(V(A) > {VTHRESH},
+ {VDD},{VSS})}}

RINT YINT Y 1
CINT Y 0 1n

.ENDS BUF_BASIC_GEN


.SUBCKT NOR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE YINT 0 VALUE {{IF(V(A) > {VTHRESH} |
+ V(B) > {VTHRESH},{VSS},{VDD})}}

RINT YINT Y 1
CINT Y 0 1n

.ENDS NOR2_BASIC_GEN


.SUBCKT RVAR 101 102 201 202 Params: Rref=1

rin 201 202 1G
r 301 0 {rref}
fcopy 0 301 vsense 1
eout 101 106 poly(2) 201 202 301 0 0 0 0 0 1
vsense 106 102 0

.ENDS RVAR


.SUBCKT D_D1 1 2

D1 1 2 DD1

.MODEL DD1 D (IS = 1e-15 TT = 10p Rs=0.05 N = 0.1)

.ENDS D_D1


.SUBCKT BUF_DELAY_BASIC_GEN A Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n

E_ABMGATE1 YINT1 0 VALUE {{IF(V(A) > {VTHRESH},
+ {VDD},{VSS})}}

RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}

E_ABMGATE2 YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH},
+ {VDD},{VSS})}}

RINT2 YINT3 Y 1
CINT2 Y 0 1n

.ENDS BUF_DELAY_BASIC_GEN


.SUBCKT INV_BASIC_GEN A Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE YINT 0 VALUE {{IF(V(A) > {VTHRESH},
+ {VSS},{VDD})}}

RINT YINT Y 1
CINT Y 0 1n

.ENDS INV_BASIC_GEN


.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABM Yint 0 VALUE {IF (V(INP) >
+ V(INM), {VDD},{VSS})}

R1 Yint Y 1
C1 Y 0 1n

.ENDS COMP_BASIC_GEN


.SUBCKT RISING_ONESHOT IN OUT PARAMS: PULSE=100n VDD=1 VSS=0 VTHRESH=0.5

D_D1 INT IN DD
C_C1 0 INT 1n

X_U22 INT IN_B_DELAYED INV_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS}
+ VTHRESH={VTHRESH}

R_R1 IN INT {PULSE/(0.693 * 1E-9)}

X_U1 IN IN_B_DELAYED OUT AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS}
+ VTHRESH={VTHRESH}

.ENDS RISING_ONESHOT


.subckt one_shot in out
+ params: t=100

s_s1 meas 0 reset2 0 s1

e_abm1 ch 0 value { if( v(in)>0.5 | v(out)>0.5,1,0) }

r_r2 reset2 reset 0.1

e_abm3 out 0 value { if( v(meas)<0.5 & v(ch)>0.5,1,0) }

r_r1 meas ch {t}

c_c2 0 reset2 1.4427n
c_c1 0 meas 1.4427n

e_abm2 reset 0 value { if(v(ch)<0.5,1,0) }

.ends one_shot